US08492378B2
2-[(4-methoxybenzyl)thio]-5-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole
In the same manner as in Example 1 and using 5-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 4-methoxybenzyl chloride instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 80%) was obtained as colorless crystals.

reactant | 5-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol | COC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)S | C17H12N2O3S
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 2-[(4-methoxybenzyl)thio]-5-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole | yield 80% | COC1=CC=C(CSC=2OC(=NN2)C=2C=CC3=C(C(=CO3)C3=CC=C(C=C3)OC)C2)C=C1 | C25H20N2O4S
